US04923881
To a solution of 4-hydroxy-1-indanone (594 mg) and triethylamine (0.7 ml) in dry dichloromethane (10 ml) was added tert-butyldimethylsilyl chloride (724 mg) in several portions at 0° C. The mixture was stirred overnight at ambient temperature and then poured into a mixture of water (30 ml) and dichloromethane (20 ml). The separated organic layer was washed with 1N-hydrochloric acid, brine and aqueous saturated sodium bicarbonate solution, succeedingly. The solution was dried and evaporated in vacuo. The residue was purified by columnchromatography on silica gel eluted by dichloromethane to give 4-(tert-butyldimethylsilyl)oxy-1-indanone (1.002 g) as an oil.

reactant | 4-hydroxy-1-indanone | 594 mg | OC1=C2CCC(C2=CC=C1)=O | C9H8O2
reactant | triethylamine | 0.7 ml | C(C)N(CC)CC | C6H15N
reactant | tert-butyldimethylsilyl chloride | 724 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | water | 30 ml | O | H2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-(tert-butyldimethylsilyl)oxy-1-indanone | 1.002 g | [Si](C)(C)(C(C)(C)C)OC1=C2CCC(C2=CC=C1)=O | C15H22O2Si
